US04061761
b. 3-Ethyl-2-ethylimino-4-(3-di-n-butylsulfamoyl-4-chloro-phenyl)-1,3-thiazolidine-4-ol-hydrochloride
7.0 g of 3'-di-n-butylsulfamoyl-2,4'-dichloro-acetophenone were reacted according to Example 12 with 2.7 g of 1,3-diethylthiourea and worked up. Colorless solid body, decomposition beginning at 139° C, γ C=N 1615 cm-1.

reactant | 3'-di-n-butylsulfamoyl-2,4'-dichloro-acetophenone | 7.0 g | C(CCC)N(S(=O)(=O)C=1C=C(C=CC1Cl)C(CCl)=O)CCCC | C16H23Cl2NO3S
reactant | 1,3-diethylthiourea | 2.7 g | C(C)NC(=S)NCC | C5H12N2S
product | 3-Ethyl-2-ethylimino-4-(3-di-n-butylsulfamoyl-4-chloro-phenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N(CCCC)CCCC)(=O)=O)=NCC | InChI=1S/C21H34ClN3O3S2.ClH/c1-5-9-13-24(14-10-6-2)30(27,28)19-15-17(11-12-18(19)22)21(26)16-29-20(23-7-3)25(21)8-4;/h11-12,15,26H,5-10,13-14,16H2,1-4H3;1H
